US04371370
First Step: Preparation of 1-hydroxymethyl-1,2-bis-(2',4'-dinitrophenoxy)-ethane.
A mixture of 19.2 gm (0.1 mol) of 2,4-dinitrophenol (96%), 13.6 gm (0.05 mol) of 2,3-dibromopropanol, and 6.9 gm (0.05 mol) of potassium carbonate was refluxed for eight hours in 20 ml of dimethylformamide. After cooling, the solution was poured into 1.5 liters of water, and the precipitated product was removed by suction and washed with water. The intermediate obtained melted with decomposition at 129° C.

reactant | 2,4-dinitrophenol | 0.1 mol, 19.2 gm | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4N2O5
reactant | 2,3-dibromopropanol | 0.05 mol, 13.6 gm | BrC(CO)CBr | C3H6Br2O
reactant | potassium carbonate | 0.05 mol, 6.9 gm | C([O-])([O-])=O.[K+].[K+]
reactant | water | 1.5 liters | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-hydroxymethyl-1,2-bis-(2',4'-dinitrophenoxy)-ethane | OCC(COC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])OC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C15H12N4O11
